### PR TITLE
refactor(Time): general lemmas for the time derivative under reparametrisation and reflection

### PR DESCRIPTION
**Pull request by aadarwal**
Toward #883 (infrastructure for the pendulum's existence/uniqueness PR), but a self-contained
refactor: it de-duplicates the damped oscillator and adds general `Time` calculus in the place
AGENTS.md prescribes for it.

#1569 is merged, so this PR is now based directly on master (`33d99376`); its two commits (`7d55784b`, `1dc608c7`) are the whole diff; the second is the review golfing round. Independent of #1570–#1573.

`Physlib/SpaceAndTime/Time/Derivatives.lean` gains a documented subsection of general facts:

| Declaration | Statement |
|---|---|
| `Time.toRealCLE_symm_one` | `toRealCLE.symm (1 : ℝ) = (1 : Time)` |
| `Time.hasDerivAt_comp_toRealCLE_symm` | `τ ↦ w (toRealCLE.symm τ)` has derivative `∂ₜ w (toRealCLE.symm τ)` — generalized from `EuclideanSpace ℝ (Fin 1)` to any real normed space |
| `Time.deriv_comp_toRealCLE_of_hasDerivAt` | the converse bridge: `HasDerivAt γ v (toRealCLE t) → ∂ₜ (γ ∘ toRealCLE) t = v` |
| `Time.deriv_comp_neg` | chain rule under time reversal: `∂ₜ (fun s => f (-s)) t = -∂ₜ f (-t)` |
| `Time.deriv_deriv_comp_neg` | the second derivative is invariant under time reversal |

`DampedHarmonicOscillator/Solution.lean` loses its two private copies and calls the `Time` versions;
no other DHO proof changes. One proof-term change (`.hasFDerivAt.hasDerivAt`) avoids importing
`Deriv.Linear` into the hub file — no imports change anywhere.

**Reviewer reading order:** the new `Time/Derivatives.lean` subsection (five short lemmas), then the
DHO diff (deletions + two call-site renames).

**Verification:** full `lake build` and the complete linter battery pass; every importer of
`Time/Derivatives` rebuilt; `#print axioms` shows only `propext`, `Classical.choice`, `Quot.sound`.

Developed with assistance from AI; all mathematics and proofs were reviewed and verified to compile.

### CODE REVIEW

File: Physlib/SpaceAndTime/Time/Derivatives.lean [hunk 1]
```diff
@@ -68,7 +75,50 @@ lemma deriv_eq [AddCommGroup M] [Module ℝ M] [TopologicalSpace M]
...
+`Time`. Conversely, a `HasDerivAt` on `ℝ` at `toRealCLE t` is the time derivative at `t` of the
+curve pulled back to `Time` through `toRealCLE`.
+
+-/
+
+/-- The canonical equivalence `toRealCLE.symm : ℝ ≃L[ℝ] Time` sends `1 : ℝ` to `1 : Time`. -/
+lemma toRealCLE_symm_one : toRealCLE.symm (1 : ℝ) = (1 : Time) := by
+  rw [ContinuousLinearEquiv.symm_apply_eq]
+  change (1 : ℝ) = (1 : Time).val
+  rw [Time.one_val]
```
Comment (morrison-daniel) [inline Physlib/SpaceAndTime/Time/Derivatives.lean]:
```suggestion
  simp [toRealCLE]
```

File: Physlib/SpaceAndTime/Time/Derivatives.lean [hunk 2]
```diff
@@ -68,7 +75,50 @@ lemma deriv_eq [AddCommGroup M] [Module ℝ M] [TopologicalSpace M]
...
+
+/-- Bridge from the time derivative to `HasDerivAt`: if `w : Time → M` is differentiable at
+`toRealCLE.symm τ`, then the curve `τ ↦ w (toRealCLE.symm τ)` on `ℝ` has derivative
+`∂ₜ w (toRealCLE.symm τ)` at `τ`. -/
+lemma hasDerivAt_comp_toRealCLE_symm [NormedAddCommGroup M] [NormedSpace ℝ M]
+    (w : Time → M) (τ : ℝ) (hw : DifferentiableAt ℝ w (toRealCLE.symm τ)) :
+    HasDerivAt (fun τ : ℝ => w (toRealCLE.symm τ)) (∂ₜ w (toRealCLE.symm τ)) τ := by
+  simpa [Function.comp_def, Time.deriv_eq, Time.toRealCLE_symm_one] using
+    hw.hasFDerivAt.comp_hasDerivAt_of_eq τ
+      (toRealCLE.symm : ℝ →L[ℝ] Time).hasFDerivAt.hasDerivAt rfl
```
Comment (morrison-daniel) [inline Physlib/SpaceAndTime/Time/Derivatives.lean]:
```suggestion
  apply hw.hasFDerivAt.comp_hasDerivAt_of_eq τ _ rfl
  exact Time.toRealCLE_symm_one ▸ toRealCLE.symm.hasFDerivAt.hasDerivAt
```

File: Physlib/SpaceAndTime/Time/Derivatives.lean [hunk 3]
```diff
@@ -68,7 +75,50 @@ lemma deriv_eq [AddCommGroup M] [Module ℝ M] [TopologicalSpace M]
...
+lemma deriv_comp_toRealCLE_of_hasDerivAt [NormedAddCommGroup M] [NormedSpace ℝ M]
+    (γ : ℝ → M) (t : Time) (v : M) (h : HasDerivAt γ v (toRealCLE t)) :
+    ∂ₜ (fun s => γ (toRealCLE s)) t = v := by
+  have h' : HasFDerivAt (fun s => γ (toRealCLE s))
+      (((1 : ℝ →L[ℝ] ℝ).smulRight v).comp (toRealCLE : Time →L[ℝ] ℝ)) t :=
+    h.hasFDerivAt.comp t toRealCLE.hasFDerivAt
+  rw [Time.deriv_eq, h'.fderiv]
+  change toRealCLE 1 • v = v
+  change (1 : Time).val • v = v
+  rw [Time.one_val, one_smul]
```
Comment (morrison-daniel) [inline Physlib/SpaceAndTime/Time/Derivatives.lean]:
```suggestion
  rw [Time.deriv_eq, fderiv_fun_comp _ h.differentiableAt toRealCLE.differentiableAt, 
    toRealCLE.fderiv, ContinuousLinearMap.comp_apply, ContinuousLinearEquiv.coe_coe, 
    fderiv_eq_smul_deriv, h.deriv]
  exact Eq.trans (by rfl) (Time.one_val ▸ one_smul _ v)
```

File: Physlib/SpaceAndTime/Time/Derivatives.lean [hunk 4]
```diff
@@ -212,6 +262,32 @@ lemma deriv_contDiff_of_space {n} {M : Type} [NormedAddCommGroup M] [NormedSpace
...
+lemma deriv_comp_neg {M : Type} [NormedAddCommGroup M] [NormedSpace ℝ M]
+    (f : Time → M) (t : Time) (hf : DifferentiableAt ℝ f (-t)) :
+    ∂ₜ (fun s => f (-s)) t = -∂ₜ f (-t) := by
+  have hneg : HasFDerivAt (fun s : Time => -s) (-ContinuousLinearMap.id ℝ Time) t :=
+    (hasFDerivAt_id t).neg
+  have h : HasFDerivAt (fun s => f (-s))
+      ((fderiv ℝ f (-t)).comp (-ContinuousLinearMap.id ℝ Time)) t :=
+    hf.hasFDerivAt.comp t hneg
+  rw [Time.deriv_eq, Time.deriv_eq, h.fderiv]
+  simp
```
Comment (morrison-daniel) [inline Physlib/SpaceAndTime/Time/Derivatives.lean]:
```suggestion
  rw [Time.deriv_eq, Time.deriv_eq, fderiv_fun_comp _ hf (by fun_prop), fderiv_fun_neg]
  simp
```

File: Physlib/SpaceAndTime/Time/Derivatives.lean [hunk 5]
```diff
@@ -212,6 +262,32 @@ lemma deriv_contDiff_of_space {n} {M : Type} [NormedAddCommGroup M] [NormedSpace
...
+cancelling. -/
+lemma deriv_deriv_comp_neg {M : Type} [NormedAddCommGroup M] [NormedSpace ℝ M]
+    (f : Time → M) (hf : ContDiff ℝ ∞ f) (t : Time) :
+    ∂ₜ (∂ₜ (fun s => f (-s))) t = ∂ₜ (∂ₜ f) (-t) := by
+  have h1 : ∂ₜ (fun s => f (-s)) = fun s => -∂ₜ f (-s) := by
+    funext s
+    exact deriv_comp_neg f s (hf.differentiable (by simp) _)
+  have h2 : ∂ₜ (fun s => -∂ₜ f (-s)) t = -∂ₜ (fun s => ∂ₜ f (-s)) t :=
+    Time.deriv_neg (fun s => ∂ₜ f (-s))
+  rw [h1, h2, deriv_comp_neg (∂ₜ f) t (deriv_differentiable_of_contDiff f hf _), neg_neg]
```
Comment (morrison-daniel) [inline Physlib/SpaceAndTime/Time/Derivatives.lean]:
```suggestion
  rw [← neg_neg (∂ₜ (∂ₜ f) (-t)), ← deriv_comp_neg _ _ (by fun_prop), ← Time.deriv_neg]
  congr
  ext
  exact deriv_comp_neg f _ (hf.differentiable (by simp) _)
```

**Review by morrison-daniel — COMMENTED** [review]
Just a few golfing suggestions, otherwise looks good

File: Physlib/SpaceAndTime/Time/Derivatives.lean (hunk 1 above)
Comment (aadarwal) [reply Physlib/SpaceAndTime/Time/Derivatives.lean]: Applied in `1dc608c7` — thanks!

File: Physlib/SpaceAndTime/Time/Derivatives.lean (hunk 2 above)
Comment (aadarwal) [reply Physlib/SpaceAndTime/Time/Derivatives.lean]: Applied in `1dc608c7` — thanks!

File: Physlib/SpaceAndTime/Time/Derivatives.lean (hunk 3 above)
Comment (aadarwal) [reply Physlib/SpaceAndTime/Time/Derivatives.lean]: Applied in `1dc608c7` — thanks!

File: Physlib/SpaceAndTime/Time/Derivatives.lean (hunk 4 above)
Comment (aadarwal) [reply Physlib/SpaceAndTime/Time/Derivatives.lean]: Applied in `1dc608c7` — thanks!

File: Physlib/SpaceAndTime/Time/Derivatives.lean (hunk 5 above)
Comment (aadarwal) [reply Physlib/SpaceAndTime/Time/Derivatives.lean]: Applied in `1dc608c7` — thanks!

**Review by morrison-daniel — APPROVED** [review]
